US08138181B2
Step 2B: Preparation of (trans)-benzyl 3-fluoro-4-(2-(7-(tetrahydro-2H-pyran-4-yloxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate:
Prepared according to the procedure used for Example 1, Step D, using 7-(tetrahydro-2H-pyran-4-yloxy)imidazo[1,2-a]pyridine in place of 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine and (trans)-benzyl 4-(2-chloroquinolin-8-yloxy)-3-fluoropiperidine-1-carboxylate in place of 2,8-dibromoquinoline. MS APCI (+) m/z 597 (M+1) detected.

reactant | 7-(tetrahydro-2H-pyran-4-yloxy)imidazo[1,2-a]pyridine | O1CCC(CC1)OC1=CC=2N(C=C1)C=CN2 | C12H14N2O2
reactant | (trans)-benzyl 4-(2-chloroquinolin-8-yloxy)-3-fluoropiperidine-1-carboxylate | ClC1=NC2=C(C=CC=C2C=C1)O[C@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)F | C22H20ClFN2O3
product | (trans)-benzyl 3-fluoro-4-(2-(7-(tetrahydro-2H-pyran-4-yloxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate | F[C@@H]1CN(CC[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OC2CCOCC2)C(=O)OCC2=CC=CC=C2 | C34H33FN4O5
